US07723367B2
2-azetidin-1-yl-nicotinonitrile
Prepared in 82% yield from 3-cyano-2-fluoropyridine and azetidine hydrochloride according to the procedure described for Example 178A. MS (ESI+) m/z 160.0 (M+H)+; 1H NMR (DMSO-d6) δ 2.28-2.38 (m, 2H), 4.19-4.25 (m, 4H), 6.73 (Dd, J=7.6, 4.9 HZ, 1H), 7.92 (dd, J=7.7, 1.8 Hz, 1H), 8.30 (dd, J=4.9, 1.9 Hz, 1H).

reactant | 3-cyano-2-fluoropyridine | C(#N)C=1C(=NC=CC1)F | C6H3FN2
reactant | azetidine hydrochloride | Cl.N1CCC1
product | 2-azetidin-1-yl-nicotinonitrile | 82% yield | N1(CCC1)C1=C(C#N)C=CC=N1 | C9H9N3
